US04675397
To a solution of 0.7 g of (3S,4S)-4-acetoxy-3-tritylamino-2-oxoazetidine in 10 ml of methanol is added a solution of 0.25 g of potassium thioacetate in 2 ml of water. The mixture is stirred for 30 minutes at 55°-60° C. Methanol is distilled off under reduced pressure. To the residue is added ethyl acetate, followed by washing with water, drying and concentration under reduced pressure. The residue is purified on a silica-gel column (ethyl acetate:n-hexane=1:1) to give 0.195 g of (3R,4R)-4-acetylthio-3-tritylamino-2-oxoazetidine

reactant | (3S,4S)-4-acetoxy-3-tritylamino-2-oxoazetidine | 0.7 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O3
reactant | potassium thioacetate | 0.25 g | C(C)(=S)[O-].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | (3R,4R)-4-acetylthio-3-tritylamino-2-oxoazetidine | 0.195 g | C(C)(=O)S[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O2S
